US08629144B2
To a reactor under inert atmosphere was added 31.05 mL 2-methyl-2-butanol and 12.58 mL (0.259 mol) hydrazine hydrate. Then a solution of 26 g (0.103 mol) ethyl difluoro(quinolin-6-yl)acetate in 125 mL 2-methyl-2-butanol was dosed to the hydrazine solution at room temperature. The precipitate was filtered off from the reaction mixture and was washed with water and dried at 50° C. 22.51 g 2,2-difluoro-2-quinolin-6-ylacetohydrazide was obtained in 90% yield.

reactant | hydrazine hydrate | 0.259 mol, 12.58 mL | O.NN
reactant | ethyl difluoro(quinolin-6-yl)acetate | 0.103 mol, 26 g | FC(C(=O)OCC)(C=1C=C2C=CC=NC2=CC1)F | C13H11F2NO2
reactant | hydrazine | NN | H4N2
solvent | 2-methyl-2-butanol | 125 mL | CC(C)(CC)O | C5H12O
solvent | 2-methyl-2-butanol | 31.05 mL | CC(C)(CC)O | C5H12O
product | 2,2-difluoro-2-quinolin-6-ylacetohydrazide | 22.51 g, 90% yield | FC(C(=O)NN)(C=1C=C2C=CC=NC2=CC1)F | C11H9F2N3O
